US07547680B2
2-[3-(4-Hydroxybutylamino)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole
2-[3-(4-Benzyloxybutylamino)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole (44 mg) was dissolved in ethanol (5 mL). To the solution was added a catalytic amount of 10% palladium-carbon powder, and the mixture was stirred at 60° C. under a hydrogen atmosphere for 24 hour. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (22 mg).

reactant | 2-[3-(4-Benzyloxybutylamino)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole | 44 mg | C(C1=CC=CC=C1)OCCCCNC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1 | C30H36N4O5
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | 2-[3-(4-Hydroxybutylamino)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole | 22 mg | OCCCCNC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1 | C23H30N4O5
